US06187802B1
A mixture of 2-chloromethylbenzo[b]thiophene (21 g), potassium cyanide (11.7 g), 1,4-dioxane (200 ml) and water (100 ml) was stirred and heated under reflux for 4 hours, then cooled to ambient temperature and diluted with water (200 ml). The product was extracted into toluene (3×200 ml), then the combined extracts were washed with water (2×300 ml), dried (Na2SO4), and the solvents were removed in vacuo. The residue was purified via flash chromatography over silica using a 1:4 mixture of ethyl acetate and petroleum ether (b.p. 60-80° C.) as eluant. Appropriate fractions were combined and the solvents were removed in vacuo to give benzo[b]thiophen-2-acetonitrile as a yellow solid (8.9 g), m.p. 59-61° C.

reactant | 2-chloromethylbenzo[b]thiophene | 21 g | ClCC1=CC2=C(S1)C=CC=C2 | C9H7ClS
reactant | potassium cyanide | 11.7 g | [C-]#N.[K+]
reactant | 1,4-dioxane | 200 ml | O1CCOCC1 | C4H8O2
solvent | water | 200 ml | O | H2O
solvent | water | 100 ml | O | H2O
product | benzo[b]thiophen-2-acetonitrile | 8.9 g | S1C2=C(C=C1CC#N)C=CC=C2 | C10H7NS
